US06921762B2
Preparation of 5-(3(S)-benzyl-piperazin-1-yl)-8-(2-naphthyl)-7-(4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidine
8-(2-naphthyl)-5-methylthio-7-(4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidine (200 mg, 0.54 mmol), K3CO3 (100 mg) and (S)-2-benzylpiperazine (170 mg, 0.97 mmol) were combined in dry DMF (ca. 4 mL) and the mixture was heated at 100° C. for 48 h. The reaction was cooled to RT, and partitioned between water and ethyl acetate. The organic layer was dried over Na2SO4 and then concentrated in vacuo. The residue was purified by flash chromatography (2-8% MeOH/NH3:CH2Cl2) to provide the product as a tan solid; MS (m/z) 498.3 (M+H)+; C31H27N7 requir. 497.59.

reactant | 8-(2-naphthyl)-5-methylthio-7-(4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidine | 0.54 mmol, 200 mg | C1=C(C=CC2=CC=CC=C12)C=1C=2N(C(=NC1C1=CC=NC=C1)SC)C=NN2 | C21H15N5S
reactant | (S)-2-benzylpiperazine | 0.97 mmol, 170 mg | C(C1=CC=CC=C1)[C@@H]1NCCNC1 | C11H16N2
solvent | DMF | ca. 4 mL | CN(C)C=O | C3H7NO
product | 5-(3(S)-benzyl-piperazin-1-yl)-8-(2-naphthyl)-7-(4-pyridyl)-1,2,4-triazolo[4,3-c]pyrimidine | C(C1=CC=CC=C1)[C@H]1CN(CCN1)C1=NC(=C(C=2N1C=NN2)C2=CC1=CC=CC=C1C=C2)C2=CC=NC=C2 | C31H27N7
